US07615563B2
(8-Trifluoromethyl-quinolin-4-yloxy)-acetic acid
4-Hydroxy-8-trifluoromethylquinoline (0.50 g, 2.35 mmol) was dissolved in DMSO (2 mL). Potassium carbonate was added (0.32 g, 2.35 mmol) and the mixture was stirred vigorously for 2 h. Ethyl bromoacetate (0.32 mL, 1.2 equiv) was added dropwise and heat was applied at 50° C. for 6 h. At 50° C., 2N NaOH (2 mL) was added and stirring continued for 4 h. The mixture was cooled and quenched with water (4 mL). Glacial acetic acid (1.4 mL) was added to ˜pH 4 resulting in precipitation of product. After stirring the suspension for 6 h, the solid was collected by vacuum filtration, rinsed with water, and dried in a vacuum dessicator over CaCl. The yield of white solid was 0.56 g (87%). 1H-NMR (DMSO-d6) 5.04 (s, 2H), 7.11 (d, J=5.2 Hz, 1H), 7.69 (t, J=8.0 Hz, 1H), 8.15 (d, J=8.0 Hz, 1H), 8.47 (d, J=8.0 Hz, 1H), 8.83 (d, J=5.2 Hz, 1H), 13.3 (br s, 1H); LC/MS (10-99%) M/Z: M+1 obs=333.5; tR=2.63 min.

reactant | 4-Hydroxy-8-trifluoromethylquinoline | 2.35 mmol, 0.50 g | OC1=CC=NC2=C(C=CC=C12)C(F)(F)F | C10H6F3NO
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl bromoacetate | 0.32 mL, 1.2 equiv | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | 2N, 2 mL | [OH-].[Na+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (8-Trifluoromethyl-quinolin-4-yloxy)-acetic acid | FC(C=1C=CC=C2C(=CC=NC12)OCC(=O)O)(F)F | C12H8F3NO3
